US08461158B2
A solution of 0.223 g (0.5 mmol) of 2-(difluoromethyl)-4-methoxy-1-[4-(4-morpholinyl)-6-(1-piperazinyl)-2-pyrimidinyl]-1H-benzimidazole (WO 2008/032064) and 0.345 g (2.5 mmol) of powdered K2CO3 in 20 mL CH2Cl2 was cooled to 0° C., and 0.086 g (0.75 mmol) of methanesulfonyl chloride was added. The reaction mixture was allowed to warm to room temperature, and after stirring overnight water was added. The organic layer was separated, washed successively with aqueous acetic acid and aq. ammonia, and dried. Chromatography on silica, eluting with CH2Cl2/EtOAc (4:1) gave 0.176 g (67% yield) of 2-(difluoromethyl)-4-methoxy-1-[4-[4-(methylsulfonyl)-1-piperazinyl]-6-(4-morpholinyl)-2-pyrimidinyl]-1H-benzimidazole: mp (MeOH) 273-274° C.; 1H NMR (CDCl3) δ7.74 (dd, J=8.4, 0.6 Hz, 1H), 7.38 (t, JHF=53.5 Hz, 1H), 7.33 (t, J=8.2 Hz, 1H), 6.79 (t, J=7.6 Hz, 1H), 5.54 (s, 1H), 4.05 (s, 3H), 3.83-3.79 (m, 8H), 3.64 (m, 4H), 3.35 (m, 4H), 2.82 (s, 3H); Anal. Calcd. for C22H27F2N7O4S: C, 50.5; H, 5.2; N, 18.7. Found: C, 50.7; H, 5.3; N, 18.75%.

reactant | 2-(difluoromethyl)-4-methoxy-1-[4-(4-morpholinyl)-6-(1-piperazinyl)-2-pyrimidinyl]-1H-benzimidazole | 0.5 mmol, 0.223 g | FC(C1=NC2=C(N1C1=NC(=CC(=N1)N1CCOCC1)N1CCNCC1)C=CC=C2OC)F | C21H25F2N7O2
reactant | K2CO3 | 2.5 mmol, 0.345 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methanesulfonyl chloride | 0.75 mmol, 0.086 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(difluoromethyl)-4-methoxy-1-[4-[4-(methylsulfonyl)-1-piperazinyl]-6-(4-morpholinyl)-2-pyrimidinyl]-1H-benzimidazole | 0.176 g, 67% yield | FC(C1=NC2=C(N1C1=NC(=CC(=N1)N1CCN(CC1)S(=O)(=O)C)N1CCOCC1)C=CC=C2OC)F | C22H27F2N7O4S
